US04921962
8-alpha-Methylbenzyloxy-7,7,9,9-tetramethyl-8-aza-1,4-dioxaspiro[4.5]decane
A mixture of 38.1 g (191 mmol) of 7,7,9,9-tetramethyl-8-aza-1,4-dioxaspiro[4.5]decane, 73.8 g (574 mmol) of 70% aq. t-butyl hydroperoxide, 2.0 g of molybdenum trioxide, and 130 ml of ethylbenzene is refluxed for 6 hours. Water is collected in a Dean-Stark trap. The catalyst is filtered and the filtrate is concentrated at reduced pressure. The residue is dissolved in heptane and passed through silica gel. A Kugelrohr distillation (120° C., 0.1 mm Hg) is used to remove volatile by-products. The title compound crystallizes on standing.

reactant | 7,7,9,9-tetramethyl-8-aza-1,4-dioxaspiro[4.5]decane | 191 mmol, 38.1 g | CC1(CC2(OCCO2)CC(N1)(C)C)C | C11H21NO2
reactant | t-butyl hydroperoxide | 574 mmol, 73.8 g | C(C)(C)(C)OO | C4H10O2
reactant | ethylbenzene | 130 ml | C(C)C1=CC=CC=C1 | C8H10
catalyst | molybdenum trioxide | 2.0 g | [Mo](=O)(=O)=O
product | 8-alpha-Methylbenzyloxy-7,7,9,9-tetramethyl-8-aza-1,4-dioxaspiro[4.5]decane | CC(C1=CC=CC=C1)ON1C(CC2(OCCO2)CC1(C)C)(C)C | C19H29NO3
